US03957828
By following the manipulative procedure described above in Example 1c, 3-dimethylaminopropyl chloride is reacted with 1,2',3,3',5',6'-hexahydro-3-phenylspiro(isobenzofuran-1,4'-pyran). The hydrochloride salt of the product is recrystallized from an acetone-ethyl ether mixture to give 3-(3-dimethylaminopropyl)-1,2',3,3',5',6'-hexahydro-3-phenylspiro[isobenzofuran-1,4'-pyran] hydrochloride, m.p. 234.5° - 235.5°C.

reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
reactant | 1,2',3,3',5',6'-hexahydro-3-phenylspiro(isobenzofuran-1,4'-pyran) | C1(=CC=CC=C1)C1OC2(CCOCC2)C2=CC=CC=C12 | C18H18O2
product | 3-(3-dimethylaminopropyl)-1,2',3,3',5',6'-hexahydro-3-phenylspiro[isobenzofuran-1,4'-pyran] hydrochloride | Cl.CN(CCCC1(OC2(CCOCC2)C2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C23H29NO2.ClH/c1-24(2)16-8-13-23(19-9-4-3-5-10-19)21-12-7-6-11-20(21)22(26-23)14-17-25-18-15-22;/h3-7,9-12H,8,13-18H2,1-2H3;1H
